### PR TITLE
[Merged by Bors] - feat: introduce and discuss the trailing coefficient of a meromorphic function

### PR DESCRIPTION
**Pull request by kebekus**
Define the leading coefficient of a meromorphic function. If `f` is meromorphic at a point `x`, the leading coefficient is defined as the (unique!) value `g x` for a presentation of `f` in the form `(z - x) ^ order • g z` with `g` analytic at `x`. The lemma `leadCoefficient_eq_limit` expresses the leading coefficient as a limit.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Meromorphic/LeadCoefficient.lean [hunk 1]
```diff
@@ -0,0 +1,250 @@
...
+
+namespace MeromorphicAt
+
+variable (f x) in
+/--
+If `f` is meromorphic of finite order at a point `x`, the leading coefficient is defined as the
+(unique!) value `g x` for a presentation of `f` in the form `(z - x) ^ order • g z` with `g`
+analytic at `x`. In all other cases, the leading coefficient is defined to be zero.
+-/
+noncomputable def leadCoefficient : E := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/LeadCoefficient.lean:33]: A definition should not use a tactic like `rw`. Could you instead define it using `by_cases h₁ : MeromorphicAt f x`, to avoid the rewrite?

Also, I think you could go for `leadCoeff`, which is shorter but not ambiguous at all.

**Review by sgouezel — COMMENTED** [review]
I have a naming question here. If your function is a polynomial, then `3z^2 + 5 z^3+z^4`, then what you call `leadCoeff` is not the leading coefficient, i.e., the coefficient of `z^4`, but instead it's the coefficient of `z^2`. So calling this the leading coefficient looks a little bit misleading to me.

We have a name in mathlib for the first nonzero coefficient: of a polynomial it's called `trailingCoeff`. What do you think about calling your coefficient `meromorphicTrailingCoeffAt` (outside of the `MeromorphicAt` namespace), or `meromorphicOrderCoeffAt` (because it's the coefficient corresponding to the order)?

**Comment by sgouezel** [comment]
(Also, could you merge master in this PR and your other open PRs? I have refactored the definition of the order of a meromorphic function in #25106 to use a junk value, and this might require some fixing here or there)

**Comment by kebekus** [comment]
> (Also, could you merge master in this PR and your other open PRs? I have refactored the definition of the order of a meromorphic function in #25106 to use a junk value, and this might require some fixing here or there)

Done.

**Comment by kebekus** [comment]
> (Also, could you merge master in this PR and your other open PRs? I have refactored the definition of the order of a meromorphic function in #25106 to use a junk value, and this might require some fixing here or there)

Done.

**Comment by kebekus** [comment]
> I have a naming question here. If your function is a polynomial, then `3z^2 + 5 z^3+z^4`, then what you call `leadCoeff` is not the leading coefficient, i.e., the coefficient of `z^4`, but instead it's the coefficient of `z^2`. So calling this the leading coefficient looks a little bit misleading to me.
> 
> We have a name in mathlib for the first nonzero coefficient: of a polynomial it's called `trailingCoeff`. What do you think about calling your coefficient `meromorphicTrailingCoeffAt` (outside of the `MeromorphicAt` namespace), or `meromorphicOrderCoeffAt` (because it's the coefficient corresponding to the order)?

@sgouezel You are right. This is quite upsetting; I ran out of explicatives five minutes after reading your mail. I implemented your suggestion(s).

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 2]
```diff
@@ -0,0 +1,258 @@
...
+  · by_cases h₂ : meromorphicOrderAt f x = ⊤
+    · exact 0
+    · exact ((meromorphicOrderAt_ne_top_iff h₁).1 h₂).choose x
+  · exact 0
+
+/--
+If `f` is not meromorphic at `x`, the trailing coefficient is zero by definition.
+-/
+@[simp] lemma meromorphicTrailingCoeffAt_of_not_MeromorphicAt (h : ¬MeromorphicAt f x) :
+    meromorphicTrailingCoeffAt f x = 0 := by simp_all [meromorphicTrailingCoeffAt]
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]:
```suggestion
    meromorphicTrailingCoeffAt f x = 0 := by simp [meromorphicTrailingCoeffAt, h]
```
In general, `simp_all` is not really advisable because it is less predictable than a bare `simp`.

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 3]
```diff
@@ -0,0 +1,258 @@
...
+
+/--
+If `f` is meromorphic of infinite order at `x`, the trailing coefficient is zero by definition.
+-/
+@[simp] lemma MeromorphicAt.meromorphicTrailingCoeffAt_of_order_eq_top (h₁ : MeromorphicAt f x)
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]: You shouldn't need `h1` here: if the order is infinite, then the function is meromorphic.

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 4]
```diff
@@ -0,0 +1,258 @@
...
+## Characterization of the Leading Coefficient
+-/
+
+/--
+Definition of the trailing coefficient in case where `f` is meromorphic of finite order and a
+presentation is given.
+-/
+@[simp]
+lemma MeromorphicAt.meromorphicTrailingCoeffAt_of_order_eq_finite (h₁ : MeromorphicAt f x)
+    (h₂ : AnalyticAt 𝕜 g x) (h₃ : meromorphicOrderAt f x ≠ ⊤)
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]: I guess h1 and h3 can be dropped : by h4, the function is meromorphic. If the order is infinite, then g has to be 0, then the formula is true. And if the order is finite, everything is fine.

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 5]
```diff
@@ -0,0 +1,258 @@
...
+@[simp]
+lemma AnalyticAt.meromorphicTrailingCoeffAt_of_nonvanish (h₁ : AnalyticAt 𝕜 f x) (h₂ : f x ≠ 0) :
+    meromorphicTrailingCoeffAt f x = f x := by
+  rw [h₁.meromorphicTrailingCoeffAt_of_order_eq_finite₁ (n := 0) h₂]
+  filter_upwards
+  simp
+
+/--
+If `f` is meromorphic at `x`, then the trailing coefficient of `f` at `x` is the limit of the
+function `(· - x) ^ (-h₁.order.untop₀) • f`.
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]: Can you fix the docstring, not mentioning `h₁.order`?

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 6]
```diff
@@ -0,0 +1,258 @@
...
+/-!
+## Elementary Properties
+-/
+
+/--
+If `f` is meromorphic of finite order at `x`, then the trailing coefficient is not zero.
+-/
+lemma MeromorphicAt.zero_ne_meromorphicTrailingCoeffAt (h₁ : MeromorphicAt f x)
+    (h₂ : meromorphicOrderAt f x ≠ ⊤) :
+    0 ≠ meromorphicTrailingCoeffAt f x := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]: I'd rather have the more natural
```suggestion
    meromorphicTrailingCoeffAt f x ≠ 0 := by
```
(and the lemma name should be fixed accordingly).

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 7]
```diff
@@ -0,0 +1,258 @@
...
+  simp
+
+/--
+The trailing coefficient of a product is the product of the trailing coefficients.
+-/
+lemma MeromorphicAt.meromorphicTrailingCoeffAt_mul {f₁ f₂ : 𝕜 → 𝕜} (hf₁ : MeromorphicAt f₁ x)
+    (hf₂ : MeromorphicAt f₂ x) :
+    meromorphicTrailingCoeffAt (f₁ * f₂) x =
+      (meromorphicTrailingCoeffAt f₁ x) * (meromorphicTrailingCoeffAt f₂ x) := by
+  exact meromorphicTrailingCoeffAt_smul hf₁ hf₂
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]:
```suggestion
      (meromorphicTrailingCoeffAt f₁ x) * (meromorphicTrailingCoeffAt f₂ x) :=
  meromorphicTrailingCoeffAt_smul hf₁ hf₂
```
`by exact` is often not necessary.

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 8]
```diff
@@ -0,0 +1,258 @@
...
+    <;> simp_all
+    exact eventuallyEq_nhdsWithin_of_eqOn fun _ ↦ congrFun rfl
+  · simp_all
+
+/--
+Except for edge cases, the trailing coefficient of the power of a function is the power of the
+trailing coefficient.
+-/
+lemma MeromorphicAt.meromorphicTrailingCoeffAt_zpow₁ {f : 𝕜 → 𝕜} (h₁ : MeromorphicAt f x)
+    (h₂ : meromorphicOrderAt f x ≠ ⊤) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]: Do you really need h2 for the statement to be true?

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean (hunk 3 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]: You are right. Removed assumption.

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean (hunk 4 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]: You are right. Suggestion implemented.

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean (hunk 5 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]: Implemented. Just wrote "order", similar to what I did elsewhere.

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean (hunk 6 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]: Implemented.

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean (hunk 8 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]: I do not. Removed the assumption, and then removed the other edge cases.

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 9]
```diff
@@ -0,0 +1,245 @@
...
+/-!
+## Characterization of the Leading Coefficient
+-/
+
+/--
+Definition of the trailing coefficient in case where `f` is meromorphic and a presentation of the
+form `f = (z - x) ^ order • g z` is given, with `g` analytic at `x`.
+-/
+@[simp]
+lemma AnalyticAt.meromorphicTrailingCoeffAt_of_presentation (h₁g : AnalyticAt 𝕜 g x)
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]:
```suggestion
lemma AnalyticAt.meromorphicTrailingCoeffAt_of_eq_nhdsNE (h₁g : AnalyticAt 𝕜 g x)
```
`presentation` is a little bit vague.

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 10]
```diff
@@ -0,0 +1,245 @@
...
+
+/-!
+## Characterization of the Leading Coefficient
+-/
+
+/--
+Definition of the trailing coefficient in case where `f` is meromorphic and a presentation of the
+form `f = (z - x) ^ order • g z` is given, with `g` analytic at `x`.
+-/
+@[simp]
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]: This shouldn't be a simp lemma, because the precondition `h` is too complicated.

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 11]
```diff
@@ -0,0 +1,245 @@
...
+    filter_upwards [h, h'₃, self_mem_nhdsWithin] with y h₁y h₂y h₃y
+    rw [← sub_eq_zero]
+    rwa [h₂y, ← sub_eq_zero, ← smul_sub, smul_eq_zero_iff_right] at h₁y
+    simp_all [zpow_ne_zero, sub_ne_zero]
+
+/--
+Variant of `meromorphicTrailingCoeffAt_of_order_eq_finite`: Definition of the trailing coefficient
+in case where `f` is meromorphic of finite order and a presentation is given.
+-/
+@[simp]
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]: shouldn't be simp either.

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 12]
```diff
@@ -0,0 +1,245 @@
...
+lemma AnalyticAt.meromorphicTrailingCoeffAt_of_order_eq_finite₁ (h₁g : AnalyticAt 𝕜 g x)
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]: The name does not really match the content.
```suggestion
lemma AnalyticAt.meromorphicTrailingCoeffAt_of_ne_zero_of_eq_nhdsNE (h₁g : AnalyticAt 𝕜 g x)
```
maybe?

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 13]
```diff
@@ -0,0 +1,245 @@
...
+    simp only [meromorphicOrderAt_eq_int_iff h₄, ne_eq, zpow_natCast]
+    use g, h₁g, h₂g
+    exact h
+  simp_all [meromorphicTrailingCoeffAt_of_presentation h₁g, this]
+
+/--
+If `f` is analytic and does not vanish at `x`, then the trailing coefficient of `f` at `x` is `f x`.
+-/
+@[simp]
+lemma AnalyticAt.meromorphicTrailingCoeffAt_of_nonvanish (h₁ : AnalyticAt 𝕜 f x) (h₂ : f x ≠ 0) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]:
```suggestion
lemma AnalyticAt.meromorphicTrailingCoeffAt_of_ne_zero (h₁ : AnalyticAt 𝕜 f x) (h₂ : f x ≠ 0) :
```

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 14]
```diff
@@ -0,0 +1,245 @@
...
+    meromorphicTrailingCoeffAt f x = f x := by
+  rw [h₁.meromorphicTrailingCoeffAt_of_order_eq_finite₁ (n := 0) h₂]
+  filter_upwards
+  simp
+
+/--
+If `f` is meromorphic at `x`, then the trailing coefficient of `f` at `x` is the limit of the
+function `(· - x) ^ (-order) • f`.
+-/
+lemma MeromorphicAt.meromorphicTrailingCoeffAt_eq_limit (h : MeromorphicAt f x) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]:
```suggestion
lemma MeromorphicAt.tendsto_nhds_meromorphicTrailingCoeffAt (h : MeromorphicAt f x) :
```
The theorem is not of the form `meromorphicTrailingCoeffAt = something`, it is of the form `Tendsto something (nhds (meromorphicTrailingCoeffAt)`, so let's reflect that in the name. In general, one shouldn't be creative in the naming, because creativity is hard to predict for other users.

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 15]
```diff
@@ -0,0 +1,245 @@
...
+  simpa [h₁g.meromorphicTrailingCoeffAt_of_order_eq_finite₁ h₂g h₃g] using h₂g
+
+/-!
+## Congruence Lemma
+-/
+
+/--
+If two functions agree in a punctured neighborhood, then their trailing coefficients agree.
+-/
+lemma meromorphicTrailingCoeffAt_congr_nhdNE {f₁ f₂ : 𝕜 → E} (h : f₁ =ᶠ[𝓝[≠] x] f₂) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]:
```suggestion
lemma meromorphicTrailingCoeffAt_congr_nhdsNE {f₁ f₂ : 𝕜 → E} (h : f₁ =ᶠ[𝓝[≠] x] f₂) :
```

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 16]
```diff
@@ -0,0 +1,245 @@
...
+  by_cases h₁ : MeromorphicAt f x
+  · by_cases h₂ : meromorphicOrderAt f x = ⊤
+    · simp_all [meromorphicOrderAt_inv (f := f) (x := x)]
+    have : f⁻¹ * f =ᶠ[𝓝[≠] x] 1 := by
+      filter_upwards [(meromorphicOrderAt_ne_top_iff_eventually_ne_zero h₁).1 h₂]
+      simp_all
+    rw [← mul_eq_one_iff_eq_inv₀ (h₁.meromorphicTrailingCoeffAt_ne_zero h₂),
+      ← h₁.inv.meromorphicTrailingCoeffAt_mul h₁, meromorphicTrailingCoeffAt_congr_nhdNE this,
+      analyticAt_const.meromorphicTrailingCoeffAt_of_order_eq_finite₁ (n := 0)]
+    <;> simp_all
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]: This is a nonterminal simp. Can you rewrite things to avoid this?

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 17]
```diff
@@ -0,0 +1,245 @@
...
+    exact eventuallyEq_nhdsWithin_of_eqOn fun _ ↦ congrFun rfl
+  · simp_all
+
+/--
+The trailing coefficient of the power of a function is the power of the trailing coefficient.
+-/
+lemma MeromorphicAt.meromorphicTrailingCoeffAt_zpow {f : 𝕜 → 𝕜} (h₁ : MeromorphicAt f x) :
+    meromorphicTrailingCoeffAt (f ^ n) x = (meromorphicTrailingCoeffAt f x) ^ n := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean:222]: When one arrives here, it is a little bit hard to guess what `n` is, because you haven't used it a lot. I would remove it from the `variable` line, and include it in the statements that need it (only this one?)

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 18]
```diff
@@ -0,0 +1,245 @@
...
+    · filter_upwards [h₃g] with a ha
+      simp_all [ha, mul_zpow, ← zpow_mul, meromorphicOrderAt_zpow h₁, mul_comm]
+
+/--
+The trailing coefficient of the power of a function is the power of the trailing coefficient.
+-/
+lemma MeromorphicAt.meromorphicTrailingCoeffAt_pow {n : ℕ} {f : 𝕜 → 𝕜} (h₁ : MeromorphicAt f x) :
+    meromorphicTrailingCoeffAt (f ^ n) x = (meromorphicTrailingCoeffAt f x) ^ n := by
+  convert h₁.meromorphicTrailingCoeffAt_zpow (n := n)
+  <;> simp
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]:
```suggestion
  convert h₁.meromorphicTrailingCoeffAt_zpow (n := n) <;> simp
```

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean (hunk 14 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]: Understood. I will do my very best.

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean (hunk 10 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]: Done.

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean (hunk 11 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]: Done.

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean (hunk 16 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]: Done.

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean (hunk 17 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean:222]: Done.

**Comment by sgouezel** [comment]
bors r+
Thanks!

**Comment by kebekus** [comment]
@sgouezel Thanks for all your work!
